US05808062
4-Hydroxy-3-[(2-phenylethyl)thio]-6[4-(4-pyridinylmethoxy)phenyl]-2H-pyran-2-one:
The title compound was prepared by Method A using 4'-(4-pyridinylmethoxy)acetophenone (2.00 g, 8.81 mmol), trimethylsilyltriflate (2.04 mL, 10.57 mmol), triethylamine (2.45 mL, 17.62 mmol), methylene chloride (22 mL), and diethyl ester of [(2-phenylethyl)thio]propanedioic acid (1.00 g, 3.37 mmol). m.p. dec. 212° C.; 1H NMR (400 MHz, DMSO-d6) δ 2.73 (t, 2 H), 2.88 (t, 2 H), 5.29 (s, 2 H), 6.48 (s, 1 H), 7.18 (m, 5 H), 7.45 (d, 2 H), 7.74 (d, 2 H), 8.90 (d, 2 H).

reactant | 4'-(4-pyridinylmethoxy)acetophenone | 8.81 mmol, 2.00 g | N1=CC=C(C=C1)COC1=CC=C(C=C1)C(C)=O | C14H13NO2
reactant | trimethylsilyltriflate | 10.57 mmol, 2.04 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | triethylamine | 17.62 mmol, 2.45 mL | C(C)N(CC)CC | C6H15N
reactant | [(2-phenylethyl)thio]propanedioic acid | 3.37 mmol, 1.00 g | C1(=CC=CC=C1)CCSC(C(=O)O)C(=O)O | C11H12O4S
solvent | methylene chloride | 22 mL | C(Cl)Cl | CH2Cl2
product | 4-Hydroxy-3-[(2-phenylethyl)thio]-6[4-(4-pyridinylmethoxy)phenyl]-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=C(C=C1)OCC1=CC=NC=C1)=O)SCCC1=CC=CC=C1 | C25H21NO4S
